US04803280
A solution of 11.6 g of 3-[[5-[3-(trifluoromethyl)phenyl]-1,2,3-thiadiazol-4-yl]thio]propanoic acid, methyl ester in 100 ml of dry methanol was treated with 32 ml of 1M methanolic sodium methoxide. After standing one hour, the solvent was removed in vacuo, the residue taken up in dry methanol, filtered and then concentrated. The oil was triturated with ether giving a solid which was collected and dried in vacuo, giving 6.8 g of 5-[3-(trifluoromethyl)phenyl]-1,2,3-thiadiazole-4-thiol, monosodium salt as a yellow powder, mp >200° C..

reactant | 3-[[5-[3-(trifluoromethyl)phenyl]-1,2,3-thiadiazol-4-yl]thio]propanoic acid, methyl ester | 11.6 g | FC(C=1C=C(C=CC1)C1=C(N=NS1)SCCC(=O)OC)(F)F | C13H11F3N2O2S2
reactant | sodium methoxide | 1M, 32 ml | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 5-[3-(trifluoromethyl)phenyl]-1,2,3-thiadiazole-4-thiol | 6.8 g | FC(C=1C=C(C=CC1)C1=C(N=NS1)S)(F)F | C9H5F3N2S2
